US04699904
t-Butyl 3-acetoxymethyl-7α-methoxy-3-cephem-4-carboxylate (9.3 g) was dissolved in precooled trifluoroacetic acid (TFA) (100 ml) and stirred at 0° C. for 1 hour. The volatiles were removed first in vacuo, then under a stream of nitrogen. The residue was taken up in methylene chloride and washed with water and brine, dried over sodium sulfate and evaporated to give 6.5 g of 3-acetoxymethyl-7α-methoxy-3-cephem-4-carboxylic acid.

reactant | t-Butyl 3-acetoxymethyl-7α-methoxy-3-cephem-4-carboxylate | 9.3 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@@H]2OC)=O | C15H21NO6S
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-acetoxymethyl-7α-methoxy-3-cephem-4-carboxylic acid | 6.5 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@@H]2OC)=O | C11H13NO6S
